US08304443B2
3-(1-Methoxyethyl)-1-(tetrahydro-2H-pyran-2-yl)-indazol-6-ol (30 mg) which can be prepared according to the method described in Reference example 26, etc. and (R)-(3-(2-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)-1-triethylsilyloxy)ethyl)phenyl)-N-tert-butoxycarbonylmethanesulfonamide-toluene solution which can be prepared according to the method described in Reference example 29, etc. [0.34 mL; solution obtained by dissolving (R)-(3-(2-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)-1-triethylsilyloxy)ethyl)phenyl]-N-tert-butoxycarbonylmethanesulfonamide (3.889 g) in toluene (6.60 mL)] were dissolved in toluene (1 mL; manufactured by Kanto Chemical Co., Inc.), added with triphenylphosphine (91.4 mg; manufactured by Tokyo Chemical Industry, Co., Ltd.) and TMAD (66.7 mg; manufactured by Masuda Chemical Industries Co., Ltd.), followed by stirring overnight at room temperature. To the reaction solution, triphenylphosphine (94.5 mg; manufactured by Tokyo Chemical Industry, Co., Ltd.) and TMAD (63.3 mg; manufactured by Masuda Chemical Industries Co., Ltd.) were added and stirred overnight at room temperature. This reaction solution was referred to as “M-1”. Further, 3-(1-methoxyethyl)-1-(tetrahydro-2H-pyran-2-yl)-indazol-6-ol (30 mg) which can be prepared according to the method described in Reference example 26, etc. and (R)-(3-(2-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)-1-triethylsilyloxy)ethyl)phenyl)-N-tert-butoxycarbonylmethanesulfonamide-toluene solution which can be prepared according to the method described in Reference example 29, etc. [0.34 mL; solution obtained by dissolving (R)-(3-(2-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)-1-triethylsilyloxy)ethyl)phenyl]tert-butoxycarbonylmethanesulfonamide (4.78 g) in dehydrated toluene (8.12 mL)] were dissolved in toluene (1 mL; manufactured by Kanto Chemical Co., Inc.), added with triphenylphosphine (91.4 mg; manufactured by Tokyo Chemical Industry, Co., Ltd.) and TMAD (66.7 mg; manufactured by Masuda Chemical Industries Co., Ltd.) followed by stirring overnight at room temperature. To the reaction solution, triphenylphosphine (94.5 mg; manufactured by Tokyo Chemical Industry, Co., Ltd.) and TMAD (63.3 mg; manufactured by Masuda Chemical Industries Co., Ltd.) were added and stirred overnight at room temperature. This reaction solution was referred to as “M-2”. These “M-1” and “M-2” were purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=85:15→64:34) to obtain the title compound (106.3 mg).

reactant | 3-(1-Methoxyethyl)-1-(tetrahydro-2H-pyran-2-yl)-indazol-6-ol | 30 mg | COC(C)C1=NN(C2=CC(=CC=C12)O)C1OCCCC1 | C15H20N2O3
reactant | N-tert-butoxycarbonylmethanesulfonamide toluene | C(C)(C)(C)OC(=O)NS(=O)(=O)C.C1(=CC=CC=C1)C
solvent | toluene | 6.60 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-butoxycarbonylmethanesulfonamide | 3.889 g | C(C)(C)(C)OC(=O)NS(=O)(=O)C | C6H13NO4S
